US08003647B2
Dimethyl-(4-nitro-2-trifluoromethylphenyl)amine
To a solution of 1-floro-4-nitro-2-trifluoromethylbenzene (2.0 g) in tetrahydrofuran (20 mL) were added dimethyamine (0.64 g) and sodium hydride (0.34 g) at room temperature, and this mixture was stirred at 50° C. for 16 hours. This reaction mixture was poured into water, and this mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.94 g).

reactant | 1-floro-4-nitro-2-trifluoromethylbenzene | 2.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | dimethyamine | 0.64 g | CNC | C2H7N
reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Dimethyl-(4-nitro-2-trifluoromethylphenyl)amine | 0.94 g | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C9H9F3N2O2
